US09085555B2
3-Isocyanato-5-methoxy-indole-1-carboxylic acid amide
was prepared from 5-methoxy-1H-indole-3-carbaldehyde using the protocol described for steps C, D and E in scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide.

reactant | 5-methoxy-1H-indole-3-carbaldehyde | COC=1C=C2C(=CNC2=CC1)C=O | C10H9NO2
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
product | 3-Isocyanato-5-methoxy-indole-1-carboxylic acid amide | N(=C=O)C1=CN(C2=CC=C(C=C12)OC)C(=O)N | C11H9N3O3
